US07932272B2
To a solution of 2-benzyloxy-thiophene (184 mg, 0.967 mmol) in diethyl ether (4 mL) was added n-butyl lithium (2.47M hexane solution, 0.47 mL, 1.16 mmol) at −78° C. under nitrogen atmosphere, then, the solution was stirred for 1.5 hours on an ice bath. The solution was cooled again to −78° C., N,N-dimethylformamide (487 μl, 4.84 mmol) was added, and the solution was stirred for 45 minutes while warming to room temperature. An aqueous solution of saturated ammonium chloride was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, then, filtered with silica gel, the filtrate was concentrated in vacuo, and 5-benzyloxy-thiophene-2-carbaldehyde (171 mg) was obtained.

reactant | 2-benzyloxy-thiophene | 0.967 mmol, 184 mg | C(C1=CC=CC=C1)OC=1SC=CC1 | C11H10OS
reactant | n-butyl lithium | 1.16 mmol, 2.47M, 0.47 mL | C(CCC)[Li]
reactant | N,N-dimethylformamide | 4.84 mmol, 487 μl | CN(C=O)C | C3H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 4 mL | C(C)OCC | C4H10O
product | 5-benzyloxy-thiophene-2-carbaldehyde | 171 mg | C(C1=CC=CC=C1)OC1=CC=C(S1)C=O | C12H10O2S
